US09120819B2
Stage A: 5-(Benzyloxy)-2-(methoxymethyl)pyridine
50 g (0.21 mol) of 5-benzyloxy-2-chloromethylpyridine (CAS 127590-90-3; D. I. Scopes, N. F. Norman, D. E. Bays, D. Belton, J. Brain et al., J. Med. Chem., 1992, 35, 490-501) in solution in 150 ml of methanol are added to the solution of sodium methoxide prepared by adding 6.4 g (0.28 mol) of sodium to 150 ml of methanol. After refluxing for 3 hours under nitrogen, the solution is concentrated to dryness. The oil obtained is taken up in ethyl acetate. The solution is washed with a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulphate and then concentrated to dryness. 46 g (94%) of a brown oil are obtained.

reactant | 5-benzyloxy-2-chloromethylpyridine | 0.21 mol, 50 g | C(C1=CC=CC=C1)OC=1C=CC(=NC1)CCl | C13H12ClNO
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 0.28 mol, 6.4 g | [Na] | Na
solvent | methanol | 150 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 150 ml | CO | CH4O
product | 5-(Benzyloxy)-2-(methoxymethyl)pyridine | 46 g, 94% | C(C1=CC=CC=C1)OC=1C=CC(=NC1)COC | C14H15NO2
